US09303023B2
To N-(5-fluoropyridin-2-yl)-2-(4-nitro-1H-pyrazol-1-yl)acetamide (493 mg) in THF (2.0 mL), BH3 THF-complex solution (1 M in THF, 7.3 mL, 7.3 mmol) was added dropwise. After stirring at rt for 3 h, the reaction mixture was quenched with 1 N aq. HCl-solution (3 mL, 3 mmol). The mixture was stirred for 15 min at rt, and heated to 60° C. for 1.5 h. The reaction mixture was diluted with EtOAc, washed with sat. aq. Na2CO3-solution. The aq. layer was reextracted with EtOAc and the comb. org. layers were evaporated, dissolved in DCM and washed with brine. The org. layer was dried (MgSO4), filtered and the solvent was removed by reduced pressure to yield 5-fluoro-N-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)pyridin-2-amine as a yellow solid. LC-MS conditions A: tR=0.53 min, [M+H]+=252.36.

reactant | N-(5-fluoropyridin-2-yl)-2-(4-nitro-1H-pyrazol-1-yl)acetamide | 493 mg | FC=1C=CC(=NC1)NC(CN1N=CC(=C1)[N+](=O)[O-])=O | C10H8FN5O3
reactant | HCl | 3 mmol, 1 N, 3 mL | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-fluoro-N-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)pyridin-2-amine | FC=1C=CC(=NC1)NCCN1N=CC(=C1)[N+](=O)[O-] | C10H10FN5O2
